US07151105B2
Step 4: 2-(1 -chloro-2,2,2-trifluoroethyl)phenol
Thionyl chloride (2.28 ml) was added to a solution of 2-(2,2,2-trifluoro-1-hydroxyethyl)phenol (3.0 g) and pyridine (1.23 ml) in toluene (50 ml). The reaction was stirred at room temperature for 1 hr, after which time the toluene was removed in vacuuo and the residue partitioned between ethyl acetate (100 ml) and 1N HCl (100 ml). The organics were separated and dried over magnesium sulfate, filtered and solvent removed in vacuuo to afford the title compound as a clear oil (3.0 g). 1H NMR (CDCl3): δ 5.93 (m, 1H), 6.90 (d, J=4.52 Hz, 1H), 7.10 (m, 1H), 7.35 (m, 1H), 7.69 (m, 1H).

reactant | Thionyl chloride | 2.28 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(2,2,2-trifluoro-1-hydroxyethyl)phenol | 3.0 g | FC(C(O)C1=C(C=CC=C1)O)(F)F | C8H7F3O2
reactant | pyridine | 1.23 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1 -chloro-2,2,2-trifluoroethyl)phenol | 3.0 g | ClC(C(F)(F)F)C1=C(C=CC=C1)O | C8H6ClF3O
